US06407129B1
To a solution of benzyl 4-hydroxybutanoate (synthesized by the procedure described in Weber et al., J. Med. Chem, 1991, 34, 2692-2701, 5.0 g) in diethyl ether (100 ml), pyridine (2.3 ml) was added under a nitrogen atmosphere, and chloromethyl chloroformate (3.7 g) was added dropwise at −10° C. The reaction mixture was stirred at room temperature for 20 hours. The reaction mixture was filtered with glass filter and then the filtrate was washed with water and a saturated sodium chloride aqueous solution successively. The organic layer was dried over magnesium sulfate, and then the solvent was distilled off under reduced pressure, and thus the residue was subjected to silica gel column chromatography and eluted with acetone/hexane (1:1 v/v) to obtain chloromethyl (3-benzyloxycarbonylpropyl) carbonate (7.25 g) as a colorless oily product.

reactant | benzyl 4-hydroxybutanoate | OCCCC(=O)OCC1=CC=CC=C1 | C11H14O3
reactant | pyridine | 2.3 ml | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chloroformate | 3.7 g | ClC(=O)OCCl | C2H2Cl2O2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | chloromethyl (3-benzyloxycarbonylpropyl) carbonate | 7.25 g | C(OCCl)(OCCCC(=O)OCC1=CC=CC=C1)=O | C13H15ClO5
